US08202537B2
The Dextromethorphan Resin Complex was prepared by first dissolving 954 g of dextromethorphan HBr in 8 liters of purified water heated to 75-80° C., and then slowly adding 1,758 g of AMBERLITE™ IRP-69 resin with continuous mixing while cooling down to room temperature. The dispersion was mixed for 4 hours and upon completion, allowed to settle before decanting the supernatant. The slurring/decanting process was repeated twice with sufficient amounts of purified water. The wet resin complex was then dried in a VWR™ convection oven maintained at 50° C. until moisture content was about 20-25%. In a separate container, KOLLIDON K-30 polymer (116 g) was dissolved in 1,150 g of purified water and slowly applied to the wet resin complex in a Hobart type mixer (Kitchen Aid) to form a uniform mass. The wet mass was then dried at 50° C. in a VWR™ convection oven to the moisture content was around 4-6%. The dried granules were then milled through a 40 mesh screen using CO-MIL™ brand mill.

reactant | dextromethorphan HBr | 954 g | CN1CC[C@@]23CCCC[C@@H]2[C@@H]1CC4=C3C=C(C=C4)OC.Br
solvent | water | 8 liters | O | H2O
product | Dextromethorphan | CN1CC[C@@]23CCCC[C@@H]2[C@@H]1CC4=C3C=C(C=C4)OC | C18H25NO
